US08258129B2
a) (S)-1-bromomethyl-2-(3H-imidazol-4-yl)-ethylamine
900 mg (S)-histidinol (×2HCl) are dissolved in 20 mL HBr in acetic acid (32%) and heated to 110° C. in the microwave for 6 h. The solvent is eliminated in vacuo, the residue is dissolved in ethanol and again freed from the solvent in vacuo. This crude product is used in the next reaction step without further purification.

reactant | (S)-histidinol | 900 mg | N[C@@H](CC1=CNC=N1)CO | C6H11N3O
reactant | HBr | 20 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | (S)-1-bromomethyl-2-(3H-imidazol-4-yl)-ethylamine | BrC[C@H](CC=1NC=NC1)N | C6H10BrN3
